US08486943B2
(S)-4-((3-Methoxypyridin-2-yl)methyl)-7-cyano-1,2,3,4-tetrahydrocyclopenta[b]indol-2-ylcarbamic acid isopropyl ester
A mixture of (S)-isopropyl 4-((4-chloro-3-methoxypyridin-2-yl)methyl)-7-cyano-1,2,3,4-tetrahydrocyclopenta[b]indol-2-ylcarbamate (12.53 g, 28.55 mmol) and 10% palladium on carbon (1.00 g) in methanol (150 mL) is hydrogenated at 50 psi at room temperature overnight. A fresh batch of 10% palladium on carbon (1.2 g) is slurried in water (˜2 mL) and added to the reaction mixture, which is hydrogenated (50 psi) at room temperature overnight. The catalyst is filtered off and the solution is concentrated under reduced pressure to obtain a pale yellow solid. The solid is triturated with ether twice and dried under high vacuum to afford a yellow solid (10.80 g, 94%). LC-ES/MS m/z 405.2 [M+H]+

reactant | (S)-isopropyl 4-((4-chloro-3-methoxypyridin-2-yl)methyl)-7-cyano-1,2,3,4-tetrahydrocyclopenta[b]indol-2-ylcarbamate | 28.55 mmol, 12.53 g | ClC1=C(C(=NC=C1)CN1C2=C(C=3C=C(C=CC13)C#N)C[C@@H](C2)NC(OC(C)C)=O)OC | C23H23ClN4O3
catalyst | palladium on carbon | 1.00 g | [Pd] | Pd
solvent | methanol | 150 mL | CO | CH4O
catalyst | palladium on carbon | 1.2 g | [Pd] | Pd
solvent | water | ˜2 mL | O | H2O
product | (S)-4-((3-Methoxypyridin-2-yl)methyl)-7-cyano-1,2,3,4-tetrahydrocyclopenta[b]indol-2-ylcarbamic acid isopropyl ester | 10.80 g, 94% | C(C)(C)OC(N[C@H]1CC2=C(N(C=3C=CC(=CC23)C#N)CC2=NC=CC=C2OC)C1)=O | C23H24N4O3
